US06514968B1
Preparation 39 9-(4-Fluorobenzyl)-6-methyl-1,2,3,9-tetrahydro-4H-carbazol-4-one
6-Methyl-1,2,3,9-tetrahydro-4H-carbazol-4-one (0.5457 g, 0.027 mol) is added to a slurry of pentane-washed NaH (0.1369 g, 0.0034 mol) in DMF (3 mL) and after stirring for 20 min, p-fluorobenzyl bromide (0.42 mL, 0.0034 mol) is added, followed by additional DMF (2 mL). After the slurry had stirred for 2.5 h, it is partitioned between water and ethyl acetate. The combined organic layers are washed with water, dried over sodium sulfate and concentrated to dryness. The resulting solids are chromatographed on silica gel (200 mL) using dichloromethane (100%) to give 0.6929 g (82%) of the title compound. An aliquot is recrystallized from ethyl acetate/heptane; mp 209.5-210° C.; MS (ESI+) for C20H18FNO m/z 308.2 (M+H)+; IR (drift) 2939, 1629, 1510, 1467, 1449, 1413, 1362, 1225, 1219, 1190, 1158, 1107, 1094, 832, 797 cm−1; 1H NMR (CDCl3) δ2.23, 2.47, 2.59, 2.85, 5.27, 6.99, 7.05, 7.12, 8.11. Anal. Calcd for C20H18FNO: C, 78.15; H, 5.90; N, 4.56. Found: C, 77.64; H, 5.87; N, 4.44.

reactant | 6-Methyl-1,2,3,9-tetrahydro-4H-carbazol-4-one | 0.027 mol, 0.5457 g | CC=1C=C2C=3C(CCCC3NC2=CC1)=O | C13H13NO
reactant | pentane | CCCCC | C5H12
reactant | NaH | 0.0034 mol, 0.1369 g | [H-].[Na+]
reactant | p-fluorobenzyl bromide | 0.0034 mol, 0.42 mL | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 9-(4-Fluorobenzyl)-6-methyl-1,2,3,9-tetrahydro-4H-carbazol-4-one | 0.6929 g, 82% | FC1=CC=C(CN2C3=CC=C(C=C3C=3C(CCCC23)=O)C)C=C1 | C20H18FNO
